US04315898
While the drum was rotating at about 6 rpm, the water was sprayed onto the solids at the rate of about 50 ml/min. Spraying was stopped after each 50 ml portion of water was added and the bed of semi-moisturized sodium tripolyphosphate was thoroughly mixed with a large spatula. When the desired amount of water had been added, water addition was stopped and the product was dried in the rotary drum at temperatures of 50°-70° C. by blowing hot air from a heat gun into the rotary. The temperature of the product being dried was measured by a stainless steel thermometer stem placed in the tumbling bed of product. Drying was conducted for about one hour and generally provided a sodium tripolyphosphate hexahydrate product having a free moisture content of less than about 1 weight percent and a total moisture content of between 18 and 22 weight percent.

reactant | sodium tripolyphosphate | [O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | sodium tripolyphosphate hexahydrate | O.O.O.O.O.O.[O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/5Na.H5O10P3.6H2O/c;;;;;1-11(2,3)9-13(7,8)10-12(4,5)6;;;;;;/h;;;;;(H,7,8)(H2,1,2,3)(H2,4,5,6);6*1H2/q5*+1;;;;;;;/p-5
